US05596013
4,5-Dimethyl-3-ethyl-1-(4-fluorophenyl)-6-oxo-4,6-dihydro-1H-pyrazolo[3,4-c]pyrrole
A mixture of 3-ethyl-1-(4-fluorophenyl)-6-oxo-4,6-dihydro-1H-pyrazolo[3,4-c]pyrrole (0.20 g, 0.82 mmole) and 60% sodium hydride (0.49 g, 1.2 mmole) in anhydrous tetrahydrofuran (4 ml) was heated to reflux. After 45 minutes the reaction mixture was cooled to room temperature and methyl iodide (0.29 g, 2.0 mmole) added. The mixture was then heated to reflux over 16 hours. The mixture was treated with methanol (1 ml) and the solvent removed under reduced pressure. The crude residue was chromatographed on a silica column using 1:4 ethyl acetate/hexane as eluent to give 0.12 g of the title compound. Recrystallization from ether/petroleum ether gave white crystals. M.P. 65°-65° C., Anal. calcd. for C15H16FN3O: C, 65.92; H, 5.90; N, 15.37. Found: C, 66.15; H, 5.60; N, 15.53; MS m/z 274.

reactant | 3-ethyl-1-(4-fluorophenyl)-6-oxo-4,6-dihydro-1H-pyrazolo[3,4-c]pyrrole | 0.82 mmole, 0.20 g | C(C)C1=NN(C=2C(NCC21)=O)C2=CC=C(C=C2)F | C13H12FN3O
reactant | sodium hydride | 1.2 mmole, 0.49 g | [H-].[Na+]
reactant | methyl iodide | 2.0 mmole, 0.29 g | CI | CH3I
reactant | methanol | 1 ml | CO | CH4O
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4,5-Dimethyl-3-ethyl-1-(4-fluorophenyl)-6-oxo-4,6-dihydro-1H-pyrazolo[3,4-c]pyrrole | 0.12 g | CC1C2=C(C(N1C)=O)N(N=C2CC)C2=CC=C(C=C2)F | C15H16FN3O
